Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Zofran (as hydrochloride) / Neosporin Plus
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient states that she was in her normal state of health 
until ~10 days ago when she started to develop a posterior 
"throbbing" HA that has essentially been constant. This has been 
associated w/ persistent light-headedness upon standing and 
vomiting. She states she went to ___ last ___ & was 
given fluids for a diagnosis of "orthostatic hypotension" to 
which she symptomatically responded to. However upon returning 
home her symptoms recurred and have been persistent since. She 
called her PCP today who told her to go to the ED for 
evaluation.  
 She was told her LFTs were elevated about ___ years ago and she 
had a right upper quadrant ultrasound at that time which was 
normal. Of note, she got a new tattoo a few weeks ago. She was 
seen by her PCP ___ ___ when her labs were as follows: AST 54, 
ALT 36, alk phos 88, tbili 0.03, dbili < 0.2.  
 In the ED, initial VS were:  
 T 98.3 HR 102 BP 105/64 R 16 SpO2 100% RA  
 Exam notable for: anxious thin women with a non-tender abdomen  

 Labs showed:  
 Tox  
 Urine Benzos, Barbs, Opiates, Cocaine, Amphet, Mthdne, 
Oxycodone Negative  
 Serum ASA, EtOH, Acetmnphn, Benzo, Barb, Tricyc Negative  
 
 BMP  
 137|96|5  
 ---------<75  
 5.8|24|0.6  
 Ca: 9.6 Mg: 2.0 P: 3.5  
 CK: 74  
 
 LFTs  
 ALT: 464 AP: 471 Tbili: 1.0 Alb:  
 AST: 384 Lip: 26  
 Infectious  
 HBsAg: Neg  
 HBs-Ab: Neg  
 HBc-Ab: Pnd  
 HCV-Ab: Neg  
 14.9  
 10.9>----<155  
 44.6  
 N:33 Band:0 ___ M:6 E:0 Bas:0 Atyps: 22 Absneut: 3.60 Abslymp: 
6.65 Absmono: 0.65 Abseos: 0.00 Absbaso: 0.00  
 
 Imaging showed:  
 ___  
 21:49 Liver Or Gallbladder Us (Single Organ)  
 Unremarkable abdominal ultrasound. No cholelithiasis or acute 
cholecystitis.  
 Consults: None  
 Patient received:  
 ___ 18:41 IV Metoclopramide 5 mg  
 ___ 18:41 IVF NS  
 ___ 18:41 IV DiphenhydrAMINE 25 mg  
 ___ 20:00 IVF NS 1000 mL  
 ___ 20:07 IV Metoclopramide  
 ___ 21:02 IV Metoclopramide 5 mg  
 ___ 21:24 IV DiphenhydrAMINE 25 mg  
 ___ 22:33 IVF ___ ( 1000 mL ordered)  
 ___ 23:10 IV Prochlorperazine 10 mg  
 Transfer VS were: 98.2 90 106/71 15 100% RA  
 On arrival to the floor, patient reports that she had at least 
4 days of malaise and orthostatic symptoms before the onset of 
nausea and vomiting. She denies sick contacts. She has been 
physically intimate recently and is amenable to screening for 
HIV. She says that the prochlorperazine in the ED was helpful, 
but then the nausea returned.  
 
 REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI  

 
Past Medical History:
Depression  
 Chronic abdominal pain  
 Gastroparesis  
 GERD  
 Laryngopharyngeal reflux disease  

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: 98.3 PO 119/82 R Lying 86 18 97%Ra  
 GENERAL: NAD, thin young woman  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: supple, prominent posterior cervical adenopathy R > L, no 
anterior, submandibular or supraclavicular adenopathy  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: flat, mild tenderness over R flank and RLQ  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: A&Ox3, moving all 4 extremities with purpose  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE
VS: ___ 0813 Temp: 98.3 PO BP: 116/75 R Sitting HR: 76 RR: 
17 O2 sat: 100% O2 delivery: RA 
GENERAL: NAD, thin young woman, tattoo on R arm  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: supple, posterior cervical adenopathy R > L, no anterior, 
submandibular or supraclavicular adenopathy. no nuchal rigidity 
or meningismus. 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB.  
ABDOMEN: flat, mild tenderness over R flank and RUQ. 
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
___ 06:36PM BLOOD WBC-10.9* RBC-5.24* Hgb-14.9 Hct-44.6 
MCV-85 MCH-28.4 MCHC-33.4 RDW-12.6 RDWSD-39.0 Plt ___
___ 07:25AM BLOOD WBC-8.3 RBC-4.37 Hgb-12.5 Hct-37.6 MCV-86 
MCH-28.6 MCHC-33.2 RDW-12.5 RDWSD-39.2 Plt ___
___ 02:50AM BLOOD ___ PTT-31.8 ___
___ 06:36PM BLOOD Glucose-75 UreaN-5* Creat-0.6 Na-137 
K-5.8* Cl-96 HCO3-24 AnGap-17
___ 06:36PM BLOOD ALT-464* AST-384* CK(CPK)-74 AlkPhos-471* 
TotBili-1.0
___ 07:25AM BLOOD ALT-379* AST-305* AlkPhos-361* 
TotBili-1.2
___ 06:36PM BLOOD Lipase-26 GGT-431*
___ 06:36PM BLOOD Ferritn-498*
___ 06:36PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:25AM BLOOD HIV Ab-NEG
___ 06:36PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:36PM BLOOD HCV Ab-NEG
___ 10:00AM BLOOD HCV VL-PND
___ 10:00AM BLOOD HIV1 VL-PND

EBV and CMV titers pending
 
Brief Hospital Course:
___ w/ hx of laryngopharyngeal reflux, GERD, gastroparesis,
anxiety/depression, who presented with a five day history of
headache, orthostatic hypotension and emesis. She has had
subjective fevers, night sweats. Her physical exam
is notable for posterior cervical lymphadenopathy, no
meningismus, no peritoneal signs, no organomegaly and a 
non-focal
neurologic exam. Her labs are notable for ALT 379 AST 305 Tbil
1.2 BUN, Ket+ UA, negative tox screen, negative HIV Ab, negative 
HCV Ab, negative HBV surface Ag and Ab. Repeat LFTs were 
downtrending.

#Acute hepatitis
#Acute on chronic abdominal pain
#Headache
Presentation most c/f EBV infection. EBV, CMV titers were 
pending upon discharge, as were HIV and HCV viral loads. 
Patient's symptoms improved the day after admission, and she was 
tolerating a full diet with symptoms controlled on her home 
medications.

TRANSITIONAL ISSUES
====================
-no medication changes were made
-Patient advised to avoid contact sports and other activities 
that would put her at risk for splenic rupture, pending follow 
up
-Planning to f/u within ___ weeks with her primary team at 
___. Due to discharge after hours, we were unable to make her 
a formal apt, but pt is capable of making her own appt. She will 
call us at the hospital if she runs into any issues.
[ ] will need HBV vaccination given negative surface antibody.
PENDING LABS: EBV IgG and IgM, CMV IgG and IgM, HIV VL, HCV VL, 
HBV core Ab
#contact: mother ___ ___
#Code: full presumed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Dexilant (dexlansoprazole) 30 mg oral DAILY 
2. Nortriptyline 50 mg PO DAILY 
3. Sertraline 200 mg PO DAILY 
4. HydrOXYzine 15 mg PO DAILY 
5. DiphenhydrAMINE 25 mg PO PRN when taking Reglan 

 
Discharge Medications:
1.  Dexilant (dexlansoprazole) 30 mg oral DAILY  
2.  DiphenhydrAMINE 25 mg PO PRN when taking Reglan  
3.  HydrOXYzine 15 mg PO DAILY  
4.  Nortriptyline 50 mg PO DAILY  
5.  Sertraline 200 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hepatitis

Secondary: Gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were hospitalized due to headache, nausea and vomiting.

WHILE YOU WERE HERE 
-Your liver tests were elevated.
-We were concerned for a viral infection like mononucleosis.
-Your symptoms improved.
-Preliminary testing for HIV and Hepatitis was negative. The 
final results are pending.

WHAT YOU SHOULD DO NOW
-Follow up with your doctor at ___ within ___ weeks. They 
will give you the final results of the testing we did here.
-Avoid contact sports or other violent/rough activities until 
the above follow up.
 
Followup Instructions:
___